US08183397B2
Step a): Preparation of (4R,6S)-6-(dimethoxymethyl)-4-hydroxy-tetrahydropyran-2-one (II′)
To a solution of 1.4 g of (4R,6S)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2,4-diol (I′) in 100 mL of water, 2.4 g of barium carbonate and 0.5 mL of bromine at 0° C. are added. After 3 hours of stirring at 0-5° C., the product II′ is extracted three times with 300 mL of ethyl acetate. Finally ethyl acetate is distilled off. The residue is flash chromatographed (DIPE/acetonitrile 2/1). The solvents are distilled off to get the title compound.

reactant | (4R,6S)-6-(dimethoxymethyl)-tetrahydro-2H-pyran-2,4-diol | 1.4 g | COC([C@@H]1C[C@H](CC(O1)O)O)OC | C8H16O5
reactant | barium carbonate | 2.4 g | C([O-])([O-])=O.[Ba+2]
reactant | bromine | 0.5 mL | BrBr | Br2
solvent | water | 100 mL | O | H2O
product | (4R,6S)-6-(dimethoxymethyl)-4-hydroxy-tetrahydropyran-2-one | COC([C@@H]1C[C@H](CC(O1)=O)O)OC | C8H14O5
